US05484801
5-(p-Nitrophenoxycarbonyloxymethyl)thiazole
5-(p-Nitrophenoxycarbonyloxymethyl)thiazole hydrochloride (3.0 g) was slurried in ethyl acetate (30 mL) and cooled to 10°-15° C. A solution of 5% aqueous potassium carbonate (30 mL) was added with rapid stirring. After 15 minutes, stirring was stopped and the aqueous layer was separated. The organic layer was dried with Na2SO4 (3 g), filtered, and solvent was distilled under vacuum to give 2.49 g of the title compound as a brown syrup which slowly solidified, m.p. 62°-64° C. 1H NMR (CDCl3) δ8.90 (d, 1H), 8.29 (m, 2H), 8.01 (d, 1H), 7.39 (m, 2H), 5.52 (s, 2H). 13C NMR (CDCl3) δ155.4, 155.2, 152.2, 145.4, 144.9, 130.6, 125.3, 121.6, 61.9.

reactant | 5-(p-Nitrophenoxycarbonyloxymethyl)thiazole hydrochloride | 3.0 g | Cl.[N+](=O)([O-])C1=CC=C(OC(=O)OCC2=CN=CS2)C=C1
reactant | potassium carbonate | 30 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 5-(p-Nitrophenoxycarbonyloxymethyl)thiazole | 2.49 g | [N+](=O)([O-])C1=CC=C(OC(=O)OCC2=CN=CS2)C=C1 | C11H8N2O5S
